US04152433
To a solution of 2,2,2-trichloroethyl 2-methyl-7-[2-hydroxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn isomer), which can be represented as 2,2,2-trichloroethyl 2-methyl-7-[2-hydroxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn isomer), (125 mg.) in dioxane (5 ml.) was added dropwise 0.1 M solution of diazomethane in diethyl ether till the starting compound disappeared. After the reaction mixture was concentrated, the residue was pulverized in diethyl ether, collected by filtration and then dried to give brown powder of 2,2,2-trichloroethyl 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn isomer), which can be represented as 2,2,2-trichloroethyl 2-methyl-7-[2-methoxyimino-2-(2-amino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylate (syn isomer), (110 mg.), mp 128° to 149° C. (dec.).

reactant | 2,2,2-trichloroethyl 2-methyl-7-[2-hydroxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(C(C=2N=C(SC2)N)=NO)=O)=O | C15H14Cl3N5O5S2
reactant | 2,2,2-trichloroethyl 2-methyl-7-[2-hydroxyimino-2-(2-imino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylate | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(C(C=2NC(SC2)=N)=NO)=O)=O | C15H14Cl3N5O5S2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,2,2-trichloroethyl 2-methyl-7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-cephem-4-carboxylate | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(C(C=2N=C(SC2)N)=NOC)=O)=O | C16H16Cl3N5O5S2
